US04816454
6-(4-(2-Methoxy-ethoxy)-phenyl)-4,5-dihydro-3(2H)-pyridazinone
6 g (0.024 mole) of 4-(4-(2-methoxy-ethoxy)-phenyl)-4-oxo-butyric acid and 1.2 g (0.024 mole) of hydrazine hydrate are stirred in 90 ml of ethanol at 50° C. for 1 hour. After the mixture has been cooled, the product is filtered off with suction, washed with ethanol and dried.

reactant | 4-(4-(2-methoxy-ethoxy)-phenyl)-4-oxo-butyric acid | 0.024 mole, 6 g | COCCOC1=CC=C(C=C1)C(CCC(=O)O)=O | C13H16O5
reactant | hydrazine hydrate | 0.024 mole, 1.2 g | O.NN
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 6-(4-(2-Methoxy-ethoxy)-phenyl)-4,5-dihydro-3(2H)-pyridazinone | COCCOC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H16N2O3
